US04262000
100 ml of water, followed by 28 ml of 10% strength aqueous sodium hydroxide solution, were added to a stirred solution of 22.6 g (0.1 mol) of 1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one and 21.4 g (0.2 mol) of 3-pyridinealdehyde in 500 ml of methanol. The solution was subsequently stirred at room temperature for 4 days, the methanol was removed in vacuo and the aqueous residue was taken up in ether. The aqueous phase was separated off, the organic phase was extracted three times with 1 N hydrochloric acid and the hydrochloric acid extracts were neutralized with solid sodium bicarbonate and extracted three times with ethyl acetate. 22.8 g (72% of theory) Of 2-(4-chlorophenoxy)-4,4-dimethyl-1-pyridin-3-yl-1-penten-3-one of melting point 74°-76° C. were obtained from the ethyl acetate phase.

reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one | 0.1 mol, 22.6 g | ClC1=CC=C(OCC(C(C)(C)C)=O)C=C1 | C12H15ClO2
reactant | 3-pyridinealdehyde | 0.2 mol, 21.4 g | N1=CC(=CC=C1)C=O | C6H5NO
solvent | methanol | 500 ml | CO | CH4O
product | 2-(4-chlorophenoxy)-4,4-dimethyl-1-pyridin-3-yl-1-penten-3-one | 22.8 g, 72% | ClC1=CC=C(OC(=CC=2C=NC=CC2)C(C(C)(C)C)=O)C=C1 | C18H18ClNO2
